US07595398B2
(S)-4-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-oxazolidine-3-carboxylic acid benzyl ester (Compound 5313)
(S)-Oxazolidine-3,4-dicarboxylic acid 3-benzyl ester (51.3 mg, 0.20 mmol) was dissolved in DMF (1.5 mL). Triethylamine (56 μL, 0.40 mmol) and pentafluorophenyl trifluoroacetate (35 μL, 0.20 mmol) were added, and the reaction was allowed to stir at ambient temperature for 25 minutes. Then 4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide trifluoroacetic acid salt (148.8 mg, 0.40 mmol) was added, and the reaction was stirred at ambient temperature overnight. The reaction was filtered and purified by reverse phase HPLC to give the desired product. Yield 10.2 mg. MS: 493.1 (M+H+); H1 NMR (DMSO-d6): δ(ppm) 0.52-0.74 (m, 4H), 4.05-4.37 (m, 2H), 4.58-4.69 (m, 1H), 4.90-5.17 (m, 4H), 7.00-7.45 (m, 4H), 7.72-7.98 (m, 5H), 8.37-8.48 (m, 1H), 12.48-12.51 (s, 1H).

reactant | (S)-Oxazolidine-3,4-dicarboxylic acid 3-benzyl ester | 0.20 mmol, 51.3 mg | C(C1=CC=CC=C1)OC(=O)N1COC[C@H]1C(=O)O | C12H13NO5
reactant | Triethylamine | 0.40 mmol, 56 μL | C(C)N(CC)CC | C6H15N
reactant | pentafluorophenyl trifluoroacetate | 0.20 mmol, 35 μL | FC(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)(F)F | C8F8O2
reactant | 4-(2-Amino-thiazol-4-yl)-N-cyclopropyl-benzamide trifluoroacetic acid salt | 0.40 mmol, 148.8 mg | FC(C(=O)O)(F)F.NC=1SC=C(N1)C1=CC=C(C(=O)NC2CC2)C=C1
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (S)-4-[4-(4-Cyclopropylcarbamoyl-phenyl)-thiazol-2-ylcarbamoyl]-oxazolidine-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1COC[C@H]1C(NC=1SC=C(N1)C1=CC=C(C=C1)C(NC1CC1)=O)=O | C25H24N4O5S
